US04477447
7-[2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 6.0 g) was dissolved in a mixed solution of dry dimethylsulfoxide (90 ml) and dry dimethylformamide (30 ml). After adding triethylamine (1.58 g) to the stirred solution at 9° C. over 2 minutes, iodomethyl cyclohexanecarboxylate (4.2 g) was added thereto with stirring over 5 minutes, and then stirred under ice cooling for 35 minutes. Ice water (500 ml) was added to the resultant solution and extracted with ethyl acetate three times. The solution was subsequently washed with a diluted aqueous solution of sodium bicarbonate, an aqueous solution of sodium thiosulfate and a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solution was evaporated in vacuo, and the residue was purified by column chromatography on silica gel (100 g) with a mixed solution of chloroform and acetone (10:3). The eluate was evaporated in vacuo to give the purified residue. The residue was pulverized with diisopropyl ether and dried in vacuo to give cyclohexylcarbonyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 4.0 g).

reactant | 7-[2-(2-Aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 6.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C13H13N5O5S2
reactant | triethylamine | 1.58 g | C(C)N(CC)CC | C6H15N
reactant | iodomethyl cyclohexanecarboxylate | 4.2 g | C1(CCCCC1)C(=O)OCI | C8H13IO2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylsulfoxide | 90 ml | CS(=O)C | C2H6OS
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | cyclohexylcarbonyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 4.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCOC(=O)C2CCCCC2)C1=O)=NOC | C21H25N5O7S2
